US06521754B2
4-Fluoro-N-[4-methoxy-7-(1H-tetrazol-5 -yl)-benzothiazol-2-yl]-benzamide
Using 4-methoxy-7-(1H-tetrazol-5-yl)-benzothiazol-2-ylamine and 4-fluoro-benzoyl chloride in pyridine the title compound was obtained as a tan solid (70% yield), MS: m/e=371.2 (M+H+).

reactant | 4-methoxy-7-(1H-tetrazol-5-yl)-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)C2=NN=NN2 | C9H8N6OS
reactant | 4-fluoro-benzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-Fluoro-N-[4-methoxy-7-(1H-tetrazol-5 -yl)-benzothiazol-2-yl]-benzamide | FC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3=NN=NN3)OC)C=C1 | C16H11FN6O2S
